US09126993B2
A mixture of 2-(3-hydroxyphenyl)acetic acid (0.6 g, 3.95 mmol), benzyl bromide (0.710 g, 4.14 mmol), potassium hydroxide (0.550 g, 9.87 mmol), KI (13 mg, 0.079 mmol) in THF (20 mL) was refluxed for 18 h. The solvent was removed and the residue was dissolved in 50 mL of water and extracted with ether. The aqueous layer was acidified with aqueous 1N HCl and the white precipitate that formed was filtered off to afford 2-(3-(benzyloxy)phenyl)acetic acid as a gray solid (0.87 g, 91%).

reactant | 2-(3-hydroxyphenyl)acetic acid | 3.95 mmol, 0.6 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | benzyl bromide | 4.14 mmol, 0.710 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 9.87 mmol, 0.550 g | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-(benzyloxy)phenyl)acetic acid | 0.87 g, 91% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC(=O)O | C15H14O3
